US09371281B2
To a solution of sodium hydroxide (0.1 g, 2.5 mmol) and 50% aqueous hydroxyl amine (1 mL) was added 1-cyclohexylmethyl-1H-indole-6-carboxylic acid methyl ester (0.2 g, 0.7 mmol) dissolved in THF/MeOH (2 mL, 1:1). After stirring 3.5 hr at room temperature, the solution was diluted with water (4 mL) and the volatile solvents were removed in vacuo. The solution was then neutralized to pH=7-8 with 1N HCl. The resulting precipitate was isolated by filtration to provide 1-cyclohexylmethyl-1H-indole-6-carboxylic acid hydroxyamide as a white solid (0.16 g, 84% yield). 1H NMR (400 MHz, DMSO) δ 11.13 (s, 1H), 8.92 (s, 1H), 7.92 (s, 1H), 7.55 (d, 1H, J=8.0 Hz), 7.47-7.42 (m, 2H), 6.45 (d, 1H, J=3.1 Hz), 4.03 (d, 2H, J=7.4 Hz), 1.84 (m, 1H), 1.66-1.57 (m 3H), 1.47 (m, 2H), 1.12 (m, 3H), 0.98 (m, 2H).

reactant | sodium hydroxide | 2.5 mmol, 0.1 g | [OH-].[Na+]
reactant | hydroxyl amine | 1 mL | ON | H3NO
reactant | 1-cyclohexylmethyl-1H-indole-6-carboxylic acid methyl ester | 0.7 mmol, 0.2 g | COC(=O)C1=CC=C2C=CN(C2=C1)CC1CCCCC1 | C17H21NO2
solvent | THF MeOH | 2 mL | C1CCOC1.CO
solvent | water | 4 mL | O | H2O
product | 1-cyclohexylmethyl-1H-indole-6-carboxylic acid hydroxyamide | 0.16 g, 84% yield | ONC(=O)C1=CC=C2C=CN(C2=C1)CC1CCCCC1 | C16H20N2O2
